US04179336
20 g. of cholesterol is dissolved in 300 ml. of formaldehyde diethylacetal, combined under agitation at room temperature with 30 g. of kieselguhr and in incremental portions with 15 g. of phosphorus pentoxide, and agitated for 4 hours at room temperature. The product is filtered off from the insoluble matter, washed with formaldehyde diethylacetal, and the solvent is distilled off under vacuum. The residue is crystallized at 0° C. After adding sodium bicarbonate solution, the crude product is vacuum-filtered, washed with water, and, after drying, 22.5 g. of 3β-ethoxymethoxy-5-cholestene is obtained. The compound, recrystallized from ethyl acetate, melts at 64°-66° C.

reactant | cholesterol | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H46O
reactant | formaldehyde diethylacetal | C(C)OCOCC | C5H12O2
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | 3β-ethoxymethoxy-5-cholestene | C(C)OCO[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C30H52O2
